US03998829
3α-Hydroxy-21-phthalimidomethyl-5α-pregnane-11,20-dione
21-Chloromethyl-3α-hydroxy-5α-pregnane-11,20-dione (600 mg) in acetone was treated at reflux with potassium phthalimide (600 mg) for 10 hours, poured into water and the oily precipitate extracted into ether. The extracts were washed with water, dried over anhydrous sodium sulphate and evaporated to a white foam (700 mg). Purification by preparative t.l.c. in ethyl acetate/petrol (1:1) gave a foam which on trituration with ether gave title compound (490 mg) as a white solid m.p. 187°-189° [α]D + 58.8° (c = 0.97).

reactant | 21-Chloromethyl-3α-hydroxy-5α-pregnane-11,20-dione | 600 mg | ClCCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C22H33ClO3
reactant | potassium phthalimide | 600 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3α-Hydroxy-21-phthalimidomethyl-5α-pregnane-11,20-dione | 490 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CCN5C(C=6C(C5=O)=CC=CC6)=O)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C30H37NO5
